US09062070B2
A suspension of NaH (60%, 8.50 g, 213 mmol) in 200 mL of DMF was added tert-butyl ethyl malonate (36.3 g, 193 mmol) drop-wise at 25° C. The mixture was stirred for 1 hour and 4-iodobut-1-yne (38.2 g, 212.2 g) was added drop-wise. The resulting suspension was stirred overnight and diluted with 1 L of ether, and washed with water (3×200 mL), brine, dried over anhydrous Na2SO4 and concentrated to afford tert-butyl ethyl but-3-yn-1-ylpropanedioate, which was used directly in the next step.

reactant | NaH | 213 mmol, 8.50 g | [H-].[Na+]
reactant | tert-butyl ethyl malonate | 193 mmol, 36.3 g | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
reactant | 4-iodobut-1-yne | 38.2 g | ICCC#C | C4H5I
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | ether | 1 L | CCOCC | C4H10O
product | tert-butyl ethyl but-3-yn-1-ylpropanedioate | C(CC#C)C(C(=O)OC(C)(C)C)C(=O)OCC | C13H20O4
